US08039463B2
10% Pd/C (25 mg) was added to a stirred solution of 4-nitro-1-phenyl-1H-pyrazole (240 mg, 1.2 mmol) in a mixture of MeOH (2.5 mL) and EtOAc (2.5 mL) and stirred under H2 atmosphere overnight. The reaction mixture was filtered through celite and the filtrate so obtained was concentrated under reduced pressure to afford 140 mg (69365% Yield) of 4-amino-1-phenyl-1H-pyrazole.

reactant | 4-nitro-1-phenyl-1H-pyrazole | 1.2 mmol, 240 mg | [N+](=O)([O-])C=1C=NN(C1)C1=CC=CC=C1 | C9H7N3O2
solvent | MeOH | 2.5 mL | CO | CH4O
solvent | EtOAc | 2.5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 4-amino-1-phenyl-1H-pyrazole | 140 mg, 69365% Yield | NC=1C=NN(C1)C1=CC=CC=C1 | C9H9N3
